US08124606B2
(S)-3-(hydroxymethyl)-7,8,9,10-tetrahydro-5H-dipyrido[1,2-a:3′,2′-e]pyrazin-6(6aH)-one (100 mg, 0.429 mmol), N-cyclopropyl-3-methyl-4-(piperazin-1-yl)benzamide dihydrochloride (143 mg, 0.430 mmol), (cyanomethyl)trimethylphosphonium iodide (167 mg, 0.686 mmol) and N,N-diisopropylethylamine (374 μl, 2.143 mmol) were suspended in Propiononitrile (Volume: 1287 μl) and heated in a closed vial at 90° C. for 4 h. The reaction mixture became a dark brown solution. It was cooled to room temperature and purified using HPLC (NH4HCO3 buffered, 20-70% ACN in water). The fractions were concentrated in vacuo and the resulting solid was recrystallized from MeCN (20 mL), filtered off, washed with water (2 mL) and dried in vacuum to afford (S)—N-cyclopropyl-3-methyl-4-(4-((6-oxo-6,6a,7,8,9,10-hexahydro-5H-dipyrido[1,2-a:3′,2′-e]pyrazin-3-yl)methyl)piperazin-1-yl)benzamide (50.7 mg, 0.107 mmol, 24.92% yield) as a light brown solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 0.49-0.59 (m, 2H) 0.60-0.71 (m, 2H) 1.33-1.57 (m, 3H) 1.64 (d, J=12.88 Hz, 1H) 1.85 (d, J=12.63 Hz, 1H) 2.04 (d, J=12.88 Hz, 1H) 2.25 (s, 3H) 2.42-2.56 (m, 4H) 2.60 (td, J=12.63, 2.78 Hz, 1H) 2.76-2.93 (m, 5H) 3.38 (s, 2H) 3.84 (dd, J=11.37, 2.78 Hz, 1H) 4.50 (d, J=13.14 Hz, 1H) 6.98 (d, J=2.02 Hz, 1H) 7.00 (d, J=8.34 Hz, 1H) 7.56-7.63 (m, 2H) 7.66 (d, J=2.02 Hz, 1H) 8.22 (d, J=4.29 Hz, 1H) 10.49 (s, 1H); [M+H] calc'd for C27H34N6O2, 475; found, 475.

reactant | (S)-3-(hydroxymethyl)-7,8,9,10-tetrahydro-5H-dipyrido[1,2-a:3′,2′-e]pyrazin-6(6aH)-one | 0.429 mmol, 100 mg | OCC1=CC=2NC([C@H]3N(C2N=C1)CCCC3)=O | C12H15N3O2
reactant | N-cyclopropyl-3-methyl-4-(piperazin-1-yl)benzamide dihydrochloride | 0.430 mmol, 143 mg | Cl.Cl.C1(CC1)NC(C1=CC(=C(C=C1)N1CCNCC1)C)=O
reactant | (cyanomethyl)trimethylphosphonium iodide | 0.686 mmol, 167 mg | [I-].C(#N)C[P+](C)(C)C
reactant | N,N-diisopropylethylamine | 2.143 mmol, 374 μl | C(C)(C)N(C(C)C)CC | C8H19N
solvent | Propiononitrile | 1287 μl | C(CC)#N | C3H5N
product | (S)—N-cyclopropyl-3-methyl-4-(4-((6-oxo-6,6a,7,8,9,10-hexahydro-5H-dipyrido[1,2-a:3′,2′-e]pyrazin-3-yl)methyl)piperazin-1-yl)benzamide | 0.107 mmol, 50.7 mg, 24.92% yield | C1(CC1)NC(C1=CC(=C(C=C1)N1CCN(CC1)CC1=CC=2NC([C@H]3N(C2N=C1)CCCC3)=O)C)=O | C27H34N6O2
